US09079939B2
Synthesis of Fmoc-Orn(iPr,Boc)-OH
The synthesis of (25)-Nα-fluorenylmethoxylcarbonyl-Nω,Nω-tert-butyloxycarbonyl-isopropyl-2,5-diaminopentanoic acid was accomplished by suspending 15.2 g Fmoc-Orn-OH*HCl in 150 mL THF (0.26 M) followed by adding 375 mL acetone (132 eq) and 20.6 g sodium triacetoxyborohydride (2.5 eq). The reaction mixture was stirred for 2 h and subsequent to completion of the reaction (monitored by LC-MS) 120 mL of sat. Na2CO3-solution and 10.2 g Boc2O (1.2 eq) were added. After stirring overnight sat. Na2CO3-solution and Boc2O were added again twice in portions according to the remaining starting material. Following completion of the Boc-introduction hexane was added twice, separated, and the aqueous layer was acidified with 5 N HClaq (pH=1) and extracted thrice with ethyl acetate thereafter. Finally, the combined organic layers were dried with Na2SO4 and evaporated to obtain the product as white foam.

reactant | Fmoc-Orn-OH | 15.2 g | N([C@@H](CCCN)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H22N2O4
reactant | HCl | Cl | ClH
reactant | acetone | 375 mL, 132 eq | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 20.6 g, 2.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 120 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Boc2O | 10.2 g, 1.2 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 0.26 M, 150 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Fmoc-Orn(iPr,Boc)-OH | N([C@@H](CCCN(C(C)C)C(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H36N2O6
